US06121285
1-Benzyloxycarbonyl-3-(S)-hydroxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine
1-Benzyloxycarbonyl-3-(S)-tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine (1.79 g, 4.00 mmol) was dissolved in tetrahydrofuran (40 ml) to which, cooled in an ice bath, was subsequently added dropwise a tetrahydrofuran solution of 1.0 M tetrabutylammonium fluoride (5.33 ml, 5.33 mmol). The reaction solution was stirred at room temperature for 30 minutes and then tetrahydrofuran was evaporated under reduced pressure. Thereafter, the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=1:1, to thereby obtain 1.04 g (76%) of the title compound as a colorless oil.

reactant | 1-Benzyloxycarbonyl-3-(S)-tert-butyldimethylsilyloxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine | 4.00 mmol, 1.79 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C1(CC1)C(=O)OCC)O[Si](C)(C)C(C)(C)C | C24H37NO5Si
reactant | tetrabutylammonium fluoride | 5.33 mmol, 1.0 M, 5.33 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxycarbonyl-3-(S)-hydroxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine | 1.04 g, 76% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C1(CC1)C(=O)OCC)O | C18H23NO5
